US07741321B2
A mixture of {6-[4-(methanesulfonylamino-methyl)-phenyl]-pyridin-2-yl}carbamic acid tert-butyl ester (11 g, 29 mmol) in HCl/MeOH (4M, 300 mL) was stirred at room temperature overnight. The mixture was concentrated to dryness. The residue was filtered and washed with ether to give N-(4-(6-aminopyridin-2-yl)benzyl)methane sulfonamide (C-3) (7.6 g, 80%) 1H NMR (300 MHz, DMSO-d6) δ 14.05 (br s, 1H), 8.24 (br s, 2H), 7.91-7.98 (m, 3H), 7.70 (t, J=6.0 Hz, 1H), 7.53 (d, J=8.1 Hz, 2H), 7.22 (d, J=6.9 Hz, 1H), 6.96 (d, J=9 Hz, 1H), 4.23 (d, J=5.7 Hz, 2H), 2.89 (s, 3H). MS (ESI) m/z (M+H)+: 278.0,

reactant | {6-[4-(methanesulfonylamino-methyl)-phenyl]-pyridin-2-yl}carbamic acid tert-butyl ester | 29 mmol, 11 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)CNS(=O)(=O)C)=O | C18H23N3O4S
solvent | HCl MeOH | 4M, 300 mL | Cl.CO
product | N-(4-(6-aminopyridin-2-yl)benzyl)methane sulfonamide | 7.6 g, 80% | NC1=CC=CC(=N1)C1=CC=C(CNS(=O)(=O)C)C=C1 | C13H15N3O2S
